US07763639B2
METHYL 4-[2-FLUORO-3-(METHYLSULFONYL)-PHENYL]PIPERIDINE-1-CARBOXYLATE
Preparation according to preparation 18: Methyl 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-3,6-dihydropyridine-1(2H)-carboxylate (1.45 g, 4.6 mmol), palladium on carbon (0.2 g) and hydrochloric acid (0.5 ml, conc). Yield: 0.76 g. MS m/z (relative intensity, 70 eV) 315 (M+, 41), 256 (bp), 236 (54), 141 (43) 114 (50).

reactant | Methyl 4-[2-fluoro-3-(methylsulfonyl)-phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | 4.6 mmol, 1.45 g | FC1=C(C=CC=C1S(=O)(=O)C)C=1CCN(CC1)C(=O)OC | C14H16FNO4S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | METHYL 4-[2-FLUORO-3-(METHYLSULFONYL)-PHENYL]PIPERIDINE-1-CARBOXYLATE | FC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)C(=O)OC | C14H18FNO4S
